US08486970B2
To a solution of 2.31 g of tert-butyl 1H-pyrazole-3-carboxylate and 6.98 g of N-(2-bromoethyl)phthalimide in DMF (65 mL) was added 8.95 g of cesium carbonate at room temperature, followed by stirring for 12 hours. The reaction solution was diluted with water, followed by extraction with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent: chloroform-hexane) to obtain 1.51 g of tert-butyl 1-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1H-pyrazole-3-carboxylate as a colorless solid.

reactant | tert-butyl 1H-pyrazole-3-carboxylate | 2.31 g | N1N=C(C=C1)C(=O)OC(C)(C)C | C8H12N2O2
reactant | N-(2-bromoethyl)phthalimide | 6.98 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | cesium carbonate | 8.95 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 65 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-butyl 1-[2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)ethyl]-1H-pyrazole-3-carboxylate | 1.51 g | O=C1N(C(C2=CC=CC=C12)=O)CCN1N=C(C=C1)C(=O)OC(C)(C)C | C18H19N3O4
